US07846929B2
To a solution of 3-bromo-2-methylaniline (1.00 g) in dioxane (15 mL) was added triethylamine (3.0 mL), Pd(OAc)2 (60 mg), 2-dicyclohexylphosphinobiphenyl (377 mg) and pinacol borane (2.34 mL) and the reaction mixture was heated to 80° C. for 1 hour. The reaction mixture was then cooled, diluted with ethyl acetate, and reduced in vacuo. The residue was purified using flash chromatography to yield 2-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine (1.07 g).

reactant | 3-bromo-2-methylaniline | 1.00 g | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | triethylamine | 3.0 mL | C(C)N(CC)CC | C6H15N
reactant | 2-dicyclohexylphosphinobiphenyl | 377 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | pinacol borane | 2.34 mL | B.OC(C)(C)C(C)(C)O
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OAc)2 | 60 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | 1.07 g | CC1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)N | C13H20BNO2
